### PR TITLE
Added some List tabulate-lookup properties.

### PR DESCRIPTION
**Pull request by xekoukou**
I also wrote ```lookup\'``` which removes a length type dependency that makes proofs harder.

### CODE REVIEW

File: src/Data/List/Properties.agda [hunk 1]
```diff
@@ -575,6 +576,43 @@ module _ {a} {A : Set a} where
   tabulate-lookup []       = refl
   tabulate-lookup (x ∷ xs) = P.cong (_ ∷_) (tabulate-lookup xs)
 
+  tabulate-len : ∀ {n} → (f : Fin n → A) →
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda]: As @gallais recently pointed out to me, this should be called `length-tabulate`.

File: src/Data/List/Properties.agda [hunk 2]
```diff
@@ -575,6 +576,43 @@ module _ {a} {A : Set a} where
...
+                 length (tabulate f) ≡ n
+  tabulate-len {zero} f = refl
+  tabulate-len {suc n} f = cong suc (tabulate-len (λ z → f (suc z)))
+
+  tabulate-len≤l : ∀{n} → (f : Fin n → A) →
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda]: These two properties are immediate corollaries from the first properties and the reflexivity of `≤` no? I don't think they should be included.

File: src/Data/List/Properties.agda [hunk 3]
```diff
@@ -575,6 +576,43 @@ module _ {a} {A : Set a} where
...
+
+  tabulate-len≤r : ∀{n} → (f : Fin n → A) →
+                   n ≤ length (tabulate f)
+  tabulate-len≤r {n = zero} f = z≤n
+  tabulate-len≤r {n = suc n} f = s≤s (tabulate-len≤r (λ z → f (suc z)))
+
+
+  lookup-tabulate : ∀{n} → (f : Fin n → A) →
+                    ∀ x → let x′ = subst Fin (tabulate-len f) x
+                          in f x′ ≡ lookup (tabulate f) x
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda]: x′ can be written as `cast (length-tabulate f) x` where `case` is from `Data.Fin`. The letter `i` should be used for indices rather than `x`

File: src/Data/List/Properties.agda [hunk 4]
```diff
@@ -33,6 +33,7 @@ open import Relation.Nullary.Negation using (contradiction)
 open import Relation.Nullary.Decidable using (⌊_⌋)
 open import Relation.Unary using (Pred; Decidable; ∁)
 open import Relation.Unary.Properties using (∁?)
+open import Relation.Binary.PropositionalEquality using (cong ; subst ; trans)
```
Comment (MatthewDaggitt) [inline src/Data/List/Properties.agda]: This is already imported further up.

**Comment by MatthewDaggitt** [comment]
> I also wrote lookup\' which removes a length type dependency that makes proofs harder.

Hmm I'm not sure about adding `lookup'`. Which proofs are harder? Note that I've added a comment showing how that big `lookup-tabulate` proof can be drastically simplified using `cast` from `Data.Fin`.

File: src/Data/List/Properties.agda (hunk 2 above)
Comment (xekoukou) [reply src/Data/List/Properties.agda]: I used these with ```lookup'``` , so I didn't want to use ```subst```. Now they are not necessary.

**Comment by xekoukou** [comment]
@MatthewDaggitt Done.

**Comment by MatthewDaggitt** [comment]
Thanks for fixing and apologies for the delay in getting back to you on this. Could you add an entry to the Changelog and then I'll merge this in!

**Comment by xekoukou** [comment]
@MatthewDaggitt Done.
